US07479493B2
Step B: 3-[1,3]-Dioxolan-2-yl-4-fluoro-benzaldehyde.
To a −78° C. solution of 2-(5-bromo-2-fluoro-phenyl)-[1,3]dioxolane (1.024 g, 4.047 mmol) in THF (40 mL) was added 2.5 M n-BuLi (1.80 mL, 4.45 mmol). After 20 min, the reaction was quenched with DMF (1.60 mL). After stirring for 1 h, the mixture was diluted with DCM, washed with a satd. aq. NaHCO3, dried (MgSO4), and concentrated. Purification by FCC (EtOAc/hexanes) gave the desired product (406.5 mg, 87%) as a white solid. 1H NMR (acetone-d6): 10.05 (s, 1H), 8.17-8.09 (m, 1H), 8.06-7.97 (m, 1H), 7.43-7.33 (m, 1H), 6.10-6.04 (m, 1H), 4.19-4.11 (m, 2H), 4.08-4.00 (m, 2H).

reactant | 2-(5-bromo-2-fluoro-phenyl)-[1,3]dioxolane | 4.047 mmol, 1.024 g | BrC=1C=CC(=C(C1)C1OCCO1)F | C9H8BrFO2
reactant | n-BuLi | 4.45 mmol, 2.5 M, 1.80 mL | [Li]CCCC
reactant | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-[1,3]-Dioxolan-2-yl-4-fluoro-benzaldehyde | 406.5 mg, 87% | O1C(OCC1)C=1C=C(C=O)C=CC1F | C10H9FO3
